US07947714B2
Sodium cyanide (0.98 g, 20.0 mmol) was added to a solution of piperidine (1.98 ml, 20.0 mmol) in 1 N hydrochloric acid (20 mL). A solution of 1-(propylsulfonyl)piperidin-4-one (4.11 g, 20.0 mmol) in methanol (40 mL) was added dropwise to the mixture over 30 min. On complete addition the mixture was allowed to warm to ambient temperature and stirred for 18 h. The precipitate was filtered and washed with water (10 mL) and dried under high vacuum at 60° C. which gave a white solid. The volume of the filtrate was reduced to approx 20 mL and the pH of the aqueous residue was adjusted to 7 by the addition of 4 N sodium hydroxide solution. The aqueous phase was extracted with ethyl acetate (2×100 mL) and dichloromethane (2×100 mL). The combined organics were dried over anhydrous sodium sulfate, filtered and evaporated to give 1′-(propylsulfonyl)-1,4′-bipiperidine-4′-carbonitrile as a colourless oil. 1H NMR (400 MHz, CDCl3): δ 3.70-3.64 (m, 2 H); 3.09-3.03 (m, 2 H); 2.85-2.81 (m, 2 H); 2.51 (t, J=5.0 Hz, 4 H); 2.15 (d, J=13.6 Hz, 2 H); 1.83-1.75 (m, 4 H); 1.58-1.54 (m, 4 H); 1.45-1.39 (m, 2 H); 1.00 (t, J=7.5 Hz, 3 H).

reactant | Sodium cyanide | 20.0 mmol, 0.98 g | [C-]#N.[Na+]
reactant | piperidine | 20.0 mmol, 1.98 ml | N1CCCCC1 | C5H11N
reactant | 1-(propylsulfonyl)piperidin-4-one | 20.0 mmol, 4.11 g | C(CC)S(=O)(=O)N1CCC(CC1)=O | C8H15NO3S
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 20 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 1′-(propylsulfonyl)-1,4′-bipiperidine-4′-carbonitrile | C(CC)S(=O)(=O)N1CCC(CC1)(N1CCCCC1)C#N | C14H25N3O2S
